datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11](#[C:12][C:13]([C:14]([H:17])([H:18])[H:19])[H:16])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:13]([C:12]#[C:11][H:15])([C:14]([H:17])([H:18])[H:19])[H:16],13.8072
[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([H:10])[H:11])[H:9])[H:8])([H:6])[H:7]>>[C:0](=[C:1]([C:2]1([H:9])[C:3]([H:10])([H:11])[C:4]1([C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7],71.8811
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[S:11]=[C:12]([S:13][H:15])[H:14]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:15])[H:6])([H:4])[H:5].[S:11]=[C:12]([S:13])[H:14],15.0624
[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][H:8]>>[C:0](=[C:1]([C:2](=[S:3])[H:8])[H:6])([H:4])[H:5].[H:7],71.9648
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([C:5]([C:6](=[C:7]([H:20])[H:21])[H:19])=[C:8]([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])([H:17])[H:18])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[C:5]([C:6](=[C:7]([H:20])[H:21])[H:19])[C:8]1([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:13])([H:11])[H:12],161.879
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12])[H:11]>>[C:0](#[C:1][C:2]([C:3]1([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[C:7]([H:20])([H:21])[C:8]1([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:12])[H:11],21.6731
[C:0]([C:1](=[N:2])[H:6])([H:3])([H:4])[H:5].[H:7]>>[C:0]([C:1]#[N:2])([H:3])([H:4])[H:5].[H:6][H:7],-3.740496
[C:0]([C:1]([N:2]([H:8])[H:9])([H:6])[H:7])([H:3])([H:4])[H:5].[N:10]([H:11])[H:12]>>[C:0]([C:1]([N:2]([H:8])[H:9])([H:6])[H:7])([H:4])[H:5].[H:3][N:10]([H:11])[H:12],39.300312
[C:0](=[C:1]1[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])([H:7])[H:8]>>[C:0](=[C:1]1[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])=[C:5]([H:13])[C:6]1([H:14])[H:15])([H:7])[H:8].[H:12],171.9624
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8](=[C:9]([C:10](=[S:11])[H:15])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:14])[H:5].[C:8](=[C:9][C:10](=[S:11])[H:15])([H:12])[H:13],110.458
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])([H:15])[H:16]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])([H:15])[H:16],26.3592
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([C:8]([C:9]([H:19])([H:20])[H:21])[c:10]1[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]1[H:26])([H:16])([H:17])[H:18]>>[C:0]([C:1](=[C:2]([H:5])[H:6])[C:8]([C:7]([H:16])([H:17])[H:18])([C:9]([H:19])([H:20])[H:21])[c:10]1[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]1[H:26])([H:3])[H:4],43.8902
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5]([C:6]([C:7]([C:8]([H:21])([H:22])[H:23])=[C:9]([C:10]([H:25])([H:26])[H:27])[H:24])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]([C:8]([H:21])([H:22])[H:23])[C:9]1([C:10]([H:25])([H:26])[H:27])[H:24])[H:11],58.5342
[C:0][H:1].[O:2][H:3]>>[C:0].[H:1][O:2][H:3],12.552
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([C:13]([S:14][H:19])[H:18])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:13]([C:12]([H:15])([H:16])[H:17])([S:14][H:19])[H:18],16.3176
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6]([C:7]([C:8]([H:18])([H:19])[H:20])[c:9]1[c:10]([H:21])[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]1[H:25])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:7]([C:6]([H:15])([H:16])[H:17])([C:8]([H:18])([H:19])[H:20])[c:9]1[c:10]([H:21])[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]1[H:25],164.306
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])([H:15])[H:16])[H:11])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]([C:3]([H:12])([H:13])[H:14])([H:11])[C:4]([H:15])([H:16])[C:5]1([C:6]([H:18])[H:19])[H:17],16.3176
[S:0]([S:1][H:3])[H:2]>>[S:0][H:2].[S:1][H:3],267.0
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[H:13])[C:5]([C:6]([C:7]([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])([H:19])[H:20])([H:17])[H:18])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1[C:3]([C:4]([H:14])([H:15])[H:16])([H:13])[C:7]([C:8]([H:21])([H:22])[H:23])([C:9]([H:24])([H:25])[H:26])[C:6]([H:19])([H:20])[C:5]1([H:17])[H:18])[H:12])([H:10])[H:11],57.4045
[O:0]([S:1][H:3])[H:2].[O:4][O:5][H:6]>>[H:3][O:4][O:5][H:6].[O:0]([S:1])[H:2],0.0
[C:0]([H:1])([H:2])[H:3].[O:4][N:5]=[O:6]>>[C:0]([H:2])[H:3].[H:1][O:4][N:5]=[O:6],196.2296
